US05716944
To a suspension of ethyl 6,7-methylenedioxy-2-oxo-1-benzopyran-3-carboxylate (0.26 g) in methanol (20 ml), 2N KOH (1.5 ml) was added, followed by stirring at room temperature for 2 hours. The reaction mixture was poured into water and acidified with hydrochloric acid; the resulting crystal was collected by filtration to yield 6,7-methylenedioxy-2-oxo-1-benzopyran-3-carboxylic acid (0.1 g, 44%), which was then recrystallized from N,N-dimethylformamide-water to yield yellow prisms having a melting point of 279°-280° C.

reactant | ethyl 6,7-methylenedioxy-2-oxo-1-benzopyran-3-carboxylate | 0.26 g | C1OC=2C(=CC3=C(C=C(C(O3)=O)C(=O)OCC)C2)O1 | C13H10O6
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | KOH | 2N, 1.5 ml | [OH-].[K+]
product | 6,7-methylenedioxy-2-oxo-1-benzopyran-3-carboxylic acid | 0.1 g, 44% | C1OC=2C(=CC3=C(C=C(C(O3)=O)C(=O)O)C2)O1 | C11H6O6
